US05508385
After N-benzyloxycarbonyl-glycyl-L-argininal dibutylacetal hydrochloride (1.60 g, 3.10 mmols) was dissolved in methanol (250 ml), palladium black (1 g) was added to the solution. The mixture was stirred at room temperature for 2 hours in a hydrogen flow. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated to give 1.20 g (100%) of glycyl-L-argininal dibutylacetal hydrochloride as oil.

reactant | N-benzyloxycarbonyl-glycyl-L-argininal dibutylacetal hydrochloride | 3.10 mmols, 1.60 g | Cl.C(CCC)OC([C@@H](NC(CNC(=O)OCC1=CC=CC=C1)=O)CCCNC(N)=N)OCCCC
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium black | 1 g | [Pd] | Pd
product | glycyl-L-argininal dibutylacetal hydrochloride | 1.20 g, 100% | Cl.C(CCC)OC([C@@H](NC(CN)=O)CCCNC(N)=N)OCCCC | InChI=1S/C16H35N5O3.ClH/c1-3-5-10-23-15(24-11-6-4-2)13(21-14(22)12-17)8-7-9-20-16(18)19;/h13,15H,3-12,17H2,1-2H3,(H,21,22)(H4,18,19,20);1H/t13-;/m0./s1
